US08119629B2
2-Bromo-N-(4-bromo-2-(2-fluorobenzoyl)phenyl)acetamide.
A mixture of (2-amino-5-bromophenyl)(2-fluorophenyl)methanone (15 g, 51.0 mmol) and sodium bicarbonate (12.85 g, 153 mmol) in CHCl3 (150 mL) was cooled in an ice bath to 0° C. A solution of 2-bromoacetyl bromide (4.89 mL, 56.1 mmol) was added drop-wise slowly and washed in with CHCl3 (30 ml). The cooling was removed and the mixture was stirred for 2 hr.

reactant | (2-amino-5-bromophenyl)(2-fluorophenyl)methanone | 51.0 mmol, 15 g | NC1=C(C=C(C=C1)Br)C(=O)C1=C(C=CC=C1)F | C13H9BrFNO
reactant | sodium bicarbonate | 153 mmol, 12.85 g | C([O-])(O)=O.[Na+]
reactant | 2-bromoacetyl bromide | 56.1 mmol, 4.89 mL | BrCC(=O)Br | C2H2Br2O
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-N-(4-bromo-2-(2-fluorobenzoyl)phenyl)acetamide | BrCC(=O)NC1=C(C=C(C=C1)Br)C(C1=C(C=CC=C1)F)=O | C15H10Br2FNO2
